US07683075B2
8-Fluoro-isoquinoline-3-carboxylic acid{(S)-1-azabicyclo[2.2.2]oct-2-yl}-amide
Dicyclohexyl-carbodiimide (7.69 g, 30 mmol) is added to a solution of 8-fluoro-isoquinoline-3-carboxylic acid (5.1 g, 22.4 mmol), ethyl-diisopropyl-amine (4.6 ml, 26.88 mmol) and hydroxybenzotriazole (5.36 g, 33.6 mmol) in DMF (150 ml). The mixture is stirred for 2 hours at room temperature. (S)-(1-Aza-bicyclo[2.2.2]oct-3-yl)amine (4.46 g, 49.28 mmol) and ethyl-diisopropyl-amine (8.7 ml, 49.28 mmol) are added and the solution is stirred for another 18 hours at room temperature. The solvent is removed by evaporation and the residue is dissolved in methylenedichloride and washed with a saturated K2CO3 solution and brine. The organic layer is dried over MgSO4 and evaporated. The crude product is purified by chromatography (CH2Cl2/MeOH/NH4OH, 92.5/7.5/0.75) to afford the desired compound (2.35 g). The product is recrystallized from ethanolic HCl to give 2 g. of the hydrochloric salt.

reactant | Dicyclohexyl-carbodiimide | 30 mmol, 7.69 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 8-fluoro-isoquinoline-3-carboxylic acid | 22.4 mmol, 5.1 g | FC=1C=CC=C2C=C(N=CC12)C(=O)O | C10H6FNO2
reactant | ethyl-diisopropyl-amine | 26.88 mmol, 4.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | hydroxybenzotriazole | 33.6 mmol, 5.36 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | (S)-(1-Aza-bicyclo[2.2.2]oct-3-yl)amine | 49.28 mmol, 4.46 g | N12C[C@H](C(CC1)CC2)N | C7H14N2
reactant | ethyl-diisopropyl-amine | 49.28 mmol, 8.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 8-Fluoro-isoquinoline-3-carboxylic acid{(S)-1-azabicyclo[2.2.2]oct-2-yl}-amide | 2.35 g | N12[C@@H](CC(CC1)CC2)NC(=O)C=2N=CC1=C(C=CC=C1C2)F | C17H18FN3O
